US07470679B2
3-(piperidin-4-yl)-1,6-naphthyridin-2(1H)-one
Concentrated hydrochloric acid (8.0 mL, 97 mmol) was added with stirring to a mixture of tert-butyl 4-(1-hydroxy-3-methoxy-3-oxo-1-(4-pivalamidopyridin-3-yl)propan-2-yl)piperidine-1-carboxylate (1.2 g, 2.6 mmol) and water (24 mL). Reaction was heated to reflux and held for 14 hours. Mixture was concentrated in vacuo. Residue was treated with acetonitrile (70 mL) and then concentrated in vacuo. Residue was crystallized from ethanol. Title compound was obtained as white solid in 77% yield. (M+H)+=230.1.

reactant | hydrochloric acid | 97 mmol, 8.0 mL | Cl | ClH
reactant | tert-butyl 4-(1-hydroxy-3-methoxy-3-oxo-1-(4-pivalamidopyridin-3-yl)propan-2-yl)piperidine-1-carboxylate | 2.6 mmol, 1.2 g | OC(C(C(=O)OC)C1CCN(CC1)C(=O)OC(C)(C)C)C=1C=NC=CC1NC(C(C)(C)C)=O | C24H37N3O6
solvent | water | 24 mL | O | H2O
product | 3-(piperidin-4-yl)-1,6-naphthyridin-2(1H)-one | 77% yield | N1CCC(CC1)C=1C(NC2=CC=NC=C2C1)=O | C13H15N3O
